* FOSTEX FF165WK

Eg 1 0 2.83

Cnw  1 2 1.2u
Rnw  2 0 6.8

LeW  1 3 .056m 6.5

TlW  3 0 7.227

TrW   4 0 1
RrmsW 4 0 .712294
CmmsW 4 0 9.5m
LcmsW 4 0 1.12651m
GlW   4 0 0.0132

GrW   5 0 0.0132
ZrW1  5 6 0.0132 ai
ZrW2  6 0 0.0132 ai

! impedance
. F . v1 v0 - IEg DIV DUP ABS . ARG DEG .

!output
*. F .
*. 1 2 FREEAIR IZrW1 * DBSPL .
