* FOSTEX FF165WK

Eg 1 0 2.83

Cnw  1 2 1.2u
Rnw  2 0 6.8

LeW  1 3 .056m 6.5

TlW  3 0 7.227

TrW   4 0 1
RrmsW 4 0 1.4039
CmmsW 4 0 9.5m
LcmsW 4 0 1.068m
GlW   4 0 132cm²

GrW   5 0 132cm²
ZrW1  5 6 132cm² ai
ZrW2  6 0 132cm² ai

! impedance
. F . v1 v0 - IEg DIV DUP ABS . ARG DEG .

!output
*. F .
*. 1 2 FREEAIR IZrW1 * DBSPL .
